US05279620
2nd stage: Preparation of 6-hydroxy-1-methylindole
The mixture consisting of 0.24 mole (57 g) of 6-benzyloxy-1-methylindole, 5.7 g of 10% palladium-on-charcoal, 114 ml of cyclohexene and 170 ml of 96% ethanol is heated for 30 minutes under reflux. The mixture is filtered hot to remove the catalyst. After evaporation of the filtrate under vacuum, an oil is obtained which, dissolved in isopropyl ether, gives the desired product after evaporation to dryness. It melts at 74° C.

reactant | 6-benzyloxy-1-methylindole | 0.24 mole, 57 g | C(C1=CC=CC=C1)OC1=CC=C2C=CN(C2=C1)C | C16H15NO
reactant | cyclohexene | 114 ml | C1=CCCCC1 | C6H10
reactant | ethanol | 170 ml | C(C)O | C2H6O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | palladium-on-charcoal | 5.7 g | [Pd] | Pd
product | 6-hydroxy-1-methylindole | OC1=CC=C2C=CN(C2=C1)C | C9H9NO
